Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / phenobarbital
 
Attending: ___
 
Chief Complaint:
retained products, arteriovenous malformation
 
Major Surgical or Invasive Procedure:
Uterine artery embolization
Dilation and suction curettage

 
History of Present Illness:
___ year old female (___) who is status
post medical abortion (7w2d GA) on ___.  She has since
experienced intermittent heavy vaginal bleeding.  This was
initially treated with misoprostol with temporary improvement,
but bleeding began again after intercourse.  Over the past 
month,
she has had intermittent bleeding and believes she has passed
significant amounts of tissue as well.  Her most recent episode
of significant bleeding was 1 week ago with passage of large
clots and frank blood.  Since then, she had mostly just been
passing moderate (silver dollar) sized clots.  The color of
bleeding has also become more diluted as opposed to frank blood. 

She believes she may currently be having her period.  She does
desire children in the future.  She denies abdominal pain,
nausea, vomiting, chest pain, and shortness of breath. 
 
Past Medical History:
POBHx: G7P1
- SVD x 1, ___ yrs ago
- TAB x 6, 2 medical, 2 D&Cs

PGYNHX:
- Denies h/o abnl Paps, uptodate with Paps
- H/o chlamydia many years ago, s/p tx
- Regular periods, no intermenstrual bleeding except since TAB 
as above, no significant menorrhagia, dysmenorrhea
- Sexually active with one male partner, last intercourse 2 
weeks ago
- Not using anything for contraception
- h/o genital herpes, not currently on suppresion

PMH: 
- bipolar disoder per pt report

PSH: D&C x 4
 
Social History:
___
Family History:
Mother with depression.  Father with prostate cancer.  Aunt with
MI, brain tumor.  Cousin with breast cancer. 
 
Physical Exam:
Initial:
GENERAL: NARD, comfortable, pleasant
ABDOMEN: soft, nontender, no rebound, no guarding
Pelvic: scant bleeding from closed os, uterus small firm,
nontender no masses
.
Discharge:
Gen: NAD
Resp: breathing comfortably
CV: RRR
Abdomen: soft, non-distended, nontender
Pelvic: minimal bleeding on pad
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing an uterine artery embolization with 
interventional radiology in preparation for a dilation and 
suction curettage the next day. She under went an uncomplicated 
dilation and suction curettage under ultrasound guidance on 
___. Please see the operative report for full details.
.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with oral ibuprofen, 
acetaminophen, and oxycodone.
.
Following her procedure, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
none
 
Discharge Medications:
1. Ibuprofen 600 mg PO Q6H:PRN pain 
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1
2. Acetaminophen ___ mg PO Q6H:PRN pain 
do not take more than 4000mg per day 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1
3. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
do not drive or drink alcohol while taking this medication 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
retained products of conception
arteriovenous malformation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and are ready to be 
discharged home. Please call ___ with any questions or 
concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina - no sex, no tampons, no douching - for 
2 weeks
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___